US04833169
4.5 g (20 mmol) of 1-bromo-2-(indan-1-yl)-ethane are dissolved in 20 ml of toluene and added, at room temperature, to a solution of 4.9 g of guvacoline hydrobromide (20 mmol) and 5.7 g (44 mmol) of N,N-diisopropyl-N-ethylamine in 15 ml of dimethylformamide. The mixture is stirred at 45° under nitrogen for 12 hours. The solvents are then substantially removed under reduced pressure. The residue is rendered acidic with 2N hydrochloric acid and the aqueous solution is extracted with diethyl ether. The acidic aqueous phases are rendered basic with saturated sodium bicarbonate solution and extracted by shaking with diethyl ether. The organic phases are separated off, washed with saturated sodium chloride solution and dried over magnesium sulphate. 1-[2-(indan-1-yl)ethyl]-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester is obtained.

reactant | 1-bromo-2-(indan-1-yl)-ethane | 20 mmol, 4.5 g | BrCCC1CCC2=CC=CC=C12 | C11H13Br
reactant | guvacoline hydrobromide | 20 mmol, 4.9 g | COC(=O)C1=CCCNC1.Br
reactant | N,N-diisopropyl-N-ethylamine | 44 mmol, 5.7 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[2-(indan-1-yl)ethyl]-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester | COC(=O)C=1CN(CCC1)CCC1CCC2=CC=CC=C12 | C18H23NO2
